US08058300B2
Step 6: 3-Methylamino-but-2-enoic acid benzyl ester:
To benzyl acetoacetate (29 g, 151 mmol) in ethanol (30 mL) was added methyl amine (33% in ethanol, 7.02 g, 226 mmol). The solution was stirred for 2 hours at room temperature followed by evaporation to yield a yellow oil (˜30 g).

reactant | benzyl acetoacetate | 151 mmol, 29 g | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | methyl amine | 226 mmol, 7.02 g | CN | CH5N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-Methylamino-but-2-enoic acid benzyl ester | ˜30 g | C(C1=CC=CC=C1)OC(C=C(C)NC)=O | C12H15NO2
